US05563162
To a suspension of 2-(2-hydroxyethyl)phthalimide (10.0 g) and triethylamine (0.729 ml) in 1,4-dioxane (50 ml) was added methyl isocyanate (4.63 ml) under ice-bath cooling, and the mixture was stirred for 4 days at ambient temperature. The solvent was removed in vacuo, and the residue was recrystallized with methanol to give 2-phthalimidoethyl methylcarbamate (10.13 g).

reactant | 2-(2-hydroxyethyl)phthalimide | 10.0 g | OCCC12C(C(=O)NC1=O)C=CC=C2 | C10H11NO3
reactant | triethylamine | 0.729 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 4.63 ml | CN=C=O | C2H3NO
reactant | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-phthalimidoethyl methylcarbamate | 10.13 g | CNC(OCCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C12H12N2O4
